US04032322
To a mixture of 132.1 g of malononitrile and 345.6 g of potassium carbonate in 2 liters of methylene chloride was slowly added during 2 hours 316.4 g of isobutyric anhydride. During the addition, the mixture reached the reflux temperature where it was maintained an additional 6.5 hours. The mixture was then stirred at ambient temperature for an additional 15 hours, then chilled to -10°. One liter of concentrated hydrochloric acid was carefully added to the cold mixture, maintaining the temperature below 10° throughout the addition. The acidic mixture was filtered and the layers separated. The water layer was extracted with two 300 ml portions of methylene chloride; the extracts were combined, washed with saturated sodium chloride solution, dried, filtered and concentrated. The solid was collected, washed with pentane and dried to give 195.5 g of 2-cyano-3-hydroxy-4-methyl- 2-pentenenitrile, mp 94°-96°. An additional 37 g (mp 87°-90°) was obtained by concentration of the filtrate and washings.

reactant | malononitrile | 132.1 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 345.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyric anhydride | 316.4 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | hydrochloric acid | One liter | Cl | ClH
solvent | methylene chloride | 2 liters | C(Cl)Cl | CH2Cl2
product | 2-cyano-3-hydroxy-4-methyl- 2-pentenenitrile | 195.5 g | C(#N)C(C#N)=C(C(C)C)O | C7H8N2O
